US08669266B2
(iii) 4-[(S)-2-tert-Butoxycarbonylamino-3-(1H-[1,2,3]triazol-4-yl)-propionyl]-piperazine-1-carboxylic acid butyl ester
Debenzylation of 4-[(S)-3-(1-Benzyl-1H-[1,2,3]triazol-4-yl)-2-tert-butoxycarbonylamino-propionyl]-piperazine-1-carboxylic acid butyl ester (1.14 g) was performed using the H-Cube® (Thales Nanotechnology). Parameters were chosen as follows: 0.05 M solution in MeOH, Pd(OH)2/C, 60° C., 30 bar. Yield: 739 mg colorless foam.

reactant | 4-[(S)-3-(1-Benzyl-1H-[1,2,3]triazol-4-yl)-2-tert-butoxycarbonylamino-propionyl]-piperazine-1-carboxylic acid butyl ester | 1.14 g | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CC=1N=NN(C1)CC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C26H38N6O5
solvent | MeOH | CO | CH4O
solvent | Pd(OH)2/C | [OH-].[OH-].[Pd+2]
product | 4-[(S)-2-tert-Butoxycarbonylamino-3-(1H-[1,2,3]triazol-4-yl)-propionyl]-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CC=1N=NNC1)NC(=O)OC(C)(C)C)=O | C19H32N6O5
